US09034866B2
Synthesis of (±)-2-(1H-pyrazol-4-yl)but-3-yn-2-ol
In a 20-mL sealed tube, a suspension of 2-(1H-pyrazol-4-yl)-4-(trimethylsilyl)but-3-yn-2-ol (1.4 g, 6.72 mmol, 1.00 equiv) and potassium fluoride dihydrate (2.0 g) in methanol (10 mL) was stirred for 1.5 h at 50° C. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with 20 mL of water. The resulting solution was extracted with 3×20 mL of tetrahydrofuran/ethyl acetate (2/1) and the organic layers combined and dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 1 g (98%) of 2-(1H-pyrazol-4-yl)but-3-yn-2-ol as a solid.

reactant | 2-(1H-pyrazol-4-yl)-4-(trimethylsilyl)but-3-yn-2-ol | 6.72 mmol, 1.4 g, 1.00 equiv | N1N=CC(=C1)C(C)(C#C[Si](C)(C)C)O | C10H16N2OSi
reactant | potassium fluoride dihydrate | 2.0 g | O.O.[F-].[K+]
solvent | methanol | 10 mL | CO | CH4O
product | (±)-2-(1H-pyrazol-4-yl)but-3-yn-2-ol | N1N=CC(=C1)C(C)(C#C)O | C7H8N2O
